US04111923
(d) N-Acetyl-O-methyl-DL-tyrosine
O-Methyl-DL-tyrosine, 114 g., is dissolved in 500 ml. of a solution of 46 g. of sodium hydroxide in water with cooling. Acetic anhydride, 80 ml., and 50% sodium hydroxide to maintain pH 9-11 are added with continued cooling. The reaction is stirred for twenty minutes at pH 11 and is then acidified to pH 1 with continued cooling. The precipitated solid is collected by filtration, washed with a small amount of water and dried to give the above named compound, mp. 144°-146° C.

reactant | O-Methyl-DL-tyrosine | COC1=CC=C(CC(N)C(=O)O)C=C1 | C10H13NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | N-Acetyl-O-methyl-DL-tyrosine | C(C)(=O)NC(CC1=CC=C(C=C1)OC)C(=O)O | C12H15NO4
